US06350904B1
in stage b) 4-chloro-2-methylbenzoic acid is reacted with chlorosulfonic acid, sodium sulfite and methyl iodide to give 2-methyl-4-chloro-5-methylsulfonylbenzoic acid,

reactant | 4-chloro-2-methylbenzoic acid | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl iodide | CI | CH3I
product | 2-methyl-4-chloro-5-methylsulfonylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C9H9ClO4S
